US05126349
Preparation of 3-(2-Pyrimidyl)Thio-2-Propynenitrile
Into a 250 ml reaction flask is added 2-chloro-3-(2-pyrimidyl)thio-2-propenenitrile (1.5 g, 0.007 moles), tetrahydrofuran (35 ml) and water (35 ml). The mixture is stirred at zero degree Celsius until the solid is completely dissolved and then aqueous sodium hydroxide solution (7.5 ml 1N NaOH, 0.0075 moles, diluted with 50 ml water) is added slowly with stirring at such a rate so as to maintain the reaction pH below 11. The resultant reddish brown solution is stirred at zero degree Celsius for three hours followed by one hour at room temperature and then diluted with 50 ml of saturated aqueous NaCl solution. The product is extracted twice with 100 ml portions of dichloromethane. The combined dichloromethane extract is dried over anhydrous sodium sulfate, filtered and the filtrate is evaporated under vacuum to give 0.5 g of pale yellow solid (yield 40 percent, purity 90 percent by GC/MS) which is characterized by GC/MS and 1H NMR.

reactant | 2-chloro-3-(2-pyrimidyl)thio-2-propenenitrile | 0.007 moles, 1.5 g | ClC(C#N)=CSC1=NC=CC=N1 | C7H4ClN3S
reactant | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
reactant | water | 35 ml | O | H2O
reactant | sodium hydroxide | 0.0075 moles, 1N, 7.5 ml | [OH-].[Na+]
solvent | NaCl | 50 ml | [Na+].[Cl-]
product | 3-(2-Pyrimidyl)Thio-2-Propynenitrile | 0.5 g, yield 40 percent | N1=C(N=CC=C1)SC#CC#N | C7H3N3S
